US08895544B2
(5-Chloro-pyridin-2-yl)-{2-[6-(2-ethyl-5-fluoro-4-hydroxy-phenyl)-1H-indazol-3-yl]-1,4,6,7-tetrahydro-imidazo[4,5-d]pyridin-5-yl}-methanone
To a solution of 5-chloro-pyridine-2-carboxylic acid (12 mg, 80 μmol) in DMF (1 mL) was added HBTU (32 mg, 85 μmol) and the resulting reaction mixture was stirred at room temperature for 30 minutes. 5-Ethyl-2-fluoro-4-[3-(4,5,6,7-tetrahydro-1H-imidazo[4,5-c]pyridin-2-yl)-1H-indazol-6-yl]-phenol trihydrobromide salt (Preparation 25, 50 mg, 80 μmol) and DIPEA (56 μL, 320 μmol) were added and stirring was continued at room temperature for 18 hours. Saturated aqueous sodium hydrogen carbonate solution (5 mL) was added to the reaction mixture. The resulting solid was collected by filtration and washed with further saturated aqueous sodium hydrogen carbonate solution. The crude material was purified by reverse phase chromatography (Method C) to afford 3.3 mg of the title compound.

reactant | 5-chloro-pyridine-2-carboxylic acid | 80 μmol, 12 mg | ClC=1C=CC(=NC1)C(=O)O | C6H4ClNO2
reactant | HBTU | 85 μmol, 32 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 5-Ethyl-2-fluoro-4-[3-(4,5,6,7-tetrahydro-1H-imidazo[4,5-c]pyridin-2-yl)-1H-indazol-6-yl]-phenol trihydrobromide salt | 80 μmol, 50 mg | Br.Br.Br.C(C)C=1C(=CC(=C(C1)O)F)C1=CC=C2C(=NNC2=C1)C=1NC2=C(CNCC2)N1
reactant | DIPEA | 320 μmol, 56 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | sodium hydrogen carbonate | 5 mL | C(O)([O-])=O.[Na+]
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | (5-Chloro-pyridin-2-yl)-{2-[6-(2-ethyl-5-fluoro-4-hydroxy-phenyl)-1H-indazol-3-yl]-1,4,6,7-tetrahydro-imidazo[4,5-d]pyridin-5-yl}-methanone | 3.3 mg | ClC=1C=CC(=NC1)C(=O)N1CCC2=C(C1)N=C(N2)C2=NNC1=CC(=CC=C21)C2=C(C=C(C(=C2)F)O)CC | C27H22ClFN6O2
